US06602982B1
Zirconocene chloride (Cp2ZrCl2) (543 mg, 1.86 mmol) and silver perchlorate (771 mg, 3.72 mmol) are dissolved in dichloromethane (10 ml) and thereto is added molecular sieves (1.0 g), and the reaction system is purged with nitrogen gas and stirred at room temperature for 10 minutes. To the mixture is added benzyloxycarbonyl-L-alanine-L-threonine-L-alanine benzyl ester (904 mg, 1.86 mmol) obtained in Reference Example 4, the reaction system is cooled to −40° C. The reaction mixture is added to a solution of O-(2,3,4,6-tetra-O-benzyl-β-D-galactopyranosyl)-(1→3)-2-azido-4,6-di-O-benzyl-2-deoxy-α-D-galacto-pyranosyl fluoride (620 mg, 0.74 mmol) obtained in Reference Example 2 in dichloromethane (3 ml), and the mixture is gradually warmed to room temperature and reacted for 18 hours. The reaction is stopped by adding thereto pyridine (1 ml) and the mixture is extracted with chloroform. The organic layer is washed with an aqueous sodium hydrogen carbonate solution and a saline solution, dried over anhydrous magnesium sulfate, filtered and concentrated and separated by a silica gel column chromatography (toluene:ethyl acetate=9:1-0.5% triethylamine) to give benzyloxycarbonyl-L-alanine-(O-(2,3,4,6-tetra-O-benzyl-β-D-galacto-pyranosyl)-(1→3)-(2-azido-4,6-di-O-benzyl-2-deoxy-α-D-galactopyranosyl)-L-theronine-L-alanine benzyl ester (333 mg, 33%).

reactant | benzyloxycarbonyl-L-alanine L-threonine L-alanine benzyl ester | 1.86 mmol, 904 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O.N[C@@H]([C@H](O)C)C(=O)O.C(C1=CC=CC=C1)OC([C@@H](N)C)=O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
catalyst | Zirconocene chloride | 1.86 mmol, 543 mg | [Cl-].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Zr+2]
catalyst | silver perchlorate | 3.72 mmol, 771 mg | Cl(=O)(=O)(=O)[O-].[Ag+]
product | benzyloxycarbonyl-L-alanine | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
